US08304419B2
Step B: bis(1,1-dimethylethyl)(3-{[3-cyano-5-(methyloxy)phenyl]oxy}-2-fluoro-4-nitrophenyl)propanedioate
Di-tert-butyl malonate (11.22 g, 51.9 mmol) was added dropwise. to a 0° C. solution of NaH (5.09 g, 127 mmol) in THF (150 ml). The reaction mixture was allowed to warm to RT, stirred for an additional 30 mins, and cooled to 0° C. A solution of 3-[(2,3-difluoro-6-nitrophenyl)oxy]-5-(methyloxy)benzonitrile (14.44 g, 47.2 mmol) in THF (50 mL) was added slowly and the reaction mixture was stirred at RT overnight. Dilute HCl was carefully added and the solution was extracted with EtOAc (3×100 mL). The organic layer was dried (Na2SO4), filtered, concentrated, and purified by silica gel chromatography (0-35% EtOAc/hexanes) to afford the title compound (22.9 g, 97%) as a light yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.88 (dd, J=8.79, 1.46 Hz, 1H) 7.62 (dd, J=8.65, 6.46 Hz, 1H) 6.92 (s, 1H) 6.68-6.79 (m, 2 H) 4.81 (s, 1H) 3.83 (s, 3H) 1.49 (s, 16H).

reactant | Di-tert-butyl malonate | 51.9 mmol, 11.22 g | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | NaH | 127 mmol, 5.09 g | [H-].[Na+]
reactant | 3-[(2,3-difluoro-6-nitrophenyl)oxy]-5-(methyloxy)benzonitrile | 47.2 mmol, 14.44 g | FC1=C(C(=CC=C1F)[N+](=O)[O-])OC=1C=C(C#N)C=C(C1)OC | C14H8F2N2O4
reactant | HCl | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | bis(1,1-dimethylethyl)(3-{[3-cyano-5-(methyloxy)phenyl]oxy}-2-fluoro-4-nitrophenyl)propanedioate | 22.9 g, 97% | CC(C)(C)OC(C(C(=O)OC(C)(C)C)C1=C(C(=C(C=C1)[N+](=O)[O-])OC1=CC(=CC(=C1)OC)C#N)F)=O | C25H27FN2O8
